US06265411B1
Lithium chloride (10.7 g, 255 mmol) and water (2.3 g, 127 mmol) were added to a solution of diethyl (4-cyano-2-nitrophenyl)malonate (39 g, 127 mmol) in DMSO (700 ml) under argon and the solution was heated at 100° C. for 4 hours. The reaction mixture was allowed to cool and then poured slowly into stirred ice water (1000 ml). The resulting pale yellow precipitate was colllected by filtration, washed with water (100 ml×4) and dried under vacuum to give ethyl (4-cyano-2-nitrophenyl)acetate (27.1 g, 91%).

reactant | Lithium chloride | 255 mmol, 10.7 g | [Cl-].[Li+]
reactant | water | 127 mmol, 2.3 g | O | H2O
reactant | diethyl (4-cyano-2-nitrophenyl)malonate | 127 mmol, 39 g | C(#N)C1=CC(=C(C=C1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C14H14N2O6
solvent | DMSO | 700 ml | CS(=O)C | C2H6OS
product | ethyl (4-cyano-2-nitrophenyl)acetate | 27.1 g, 91% | C(#N)C1=CC(=C(C=C1)CC(=O)OCC)[N+](=O)[O-] | C11H10N2O4
